US08710086B2
Preparation of 4-(3-(3-fluoro-4-(hydroxymethyl)phenyl)-4,4-dimethyl-5-oxo-2-thioxoimidazolidin-1-yl)-2-(trifluoromethyl)benzonitrile
The title compound was prepared according to General Method 9. A solution of 4-(3-(3-fluoro-4-(methoxymethyl)phenyl)-4,4-dimethyl-5-oxo-2-thioxoimidazolidin-1-yl)-2-(trifluoromethyl)benzonitrile (80 mg, 0.177 mmol) was dissolved in DCM (3 mL) and stirred at −70° C. BBr3 (0.05 mL, 0.54 mmol) in DCM (3 mL) was added drop wise at −78° C. and the reaction mixture was allowed to warm to and stirred at RT for 2 h. The reaction mixture was poured in ice (20 g) and neutralized with saturated NaHCO3 solution, extracted with ethyl acetate (20 mL×2). The organic layer was dried over Na2SO4, concentrated under reduced pressure and purified by silica gel chromatography to obtain 6 mg of 4-(3-(3-fluoro-4-(hydroxymethyl)phenyl)-4,4-dimethyl-5-oxo-2-thioxoimidazolidin-1-yl)-2-(trifluoromethyl)benzonitrile, HPLC, Column: YMC POLYMER C18, 4.6×150 mm, 5 μm, Mobile Phase A: 0.05% TFA, Mobile Phase B: ACN, Gradient: 10% to 90% B in 15 min, hold for 3 min. 90% to 10% B in 1 min, Flow Rate: 1 mL/min, Retention time: 13.814 min, M+1, 438.

reactant | 4-(3-(3-fluoro-4-(methoxymethyl)phenyl)-4,4-dimethyl-5-oxo-2-thioxoimidazolidin-1-yl)-2-(trifluoromethyl)benzonitrile | 0.177 mmol, 80 mg | FC=1C=C(C=CC1COC)N1C(N(C(C1(C)C)=O)C1=CC(=C(C#N)C=C1)C(F)(F)F)=S | C21H17F4N3O2S
reactant | BBr3 | 0.54 mmol, 0.05 mL | B(Br)(Br)Br | BBr3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | 4-(3-(3-fluoro-4-(hydroxymethyl)phenyl)-4,4-dimethyl-5-oxo-2-thioxoimidazolidin-1-yl)-2-(trifluoromethyl)benzonitrile | 6 mg | FC=1C=C(C=CC1CO)N1C(N(C(C1(C)C)=O)C1=CC(=C(C#N)C=C1)C(F)(F)F)=S | C20H15F4N3O2S
